US04093644
3-((4-(2,2-Dichloro-1,1-difluoroethoxy)-2-methyl-5-nitrophenyl)sulfonyl)-2-propenenitrile
In a 100 ml Fisher-Porter pressure vessel were placed 9.0 g (0.024 mol) of 4-(2,2-dichloro-1,1-difluoroethoxy)-2-methyl-5-nitrobenzenesulfonyl chloride, 2.4 g (0.048 mol) acrylonitrile, 2 ml acetonitrile, 0.07 g cupric chloride and 0.12 g triethylamine hydrochloride. After cooling and evacuating the vessel to 5 mm mercury pressure, it was sealed and heated in an oil bath at 105°-110° C for 38 hours. The vessel was opened and the reaction medium was filtered with the aid of benzene. The insolubles were discarded and the filtrate was treated with 5.0 g of triethylamine, refiltered, and washed with water. After decolorizing wth charcoal and drying over MgSO4, removal of the solvent under reduced pressure afforded a dark amber oil. Recrystallization from methanol provided 1.0 g of the title compound as a white solid, m.p. 109° C.

reactant | 4-(2,2-dichloro-1,1-difluoroethoxy)-2-methyl-5-nitrobenzenesulfonyl chloride | 0.024 mol, 9.0 g | ClC(C(OC1=CC(=C(C=C1[N+](=O)[O-])S(=O)(=O)Cl)C)(F)F)Cl | C9H6Cl3F2NO5S
reactant | acrylonitrile | 0.048 mol, 2.4 g | C(C=C)#N | C3H3N
reactant | triethylamine hydrochloride | 0.12 g | Cl.C(C)N(CC)CC
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 3-((4-(2,2-Dichloro-1,1-difluoroethoxy)-2-methyl-5-nitrophenyl)sulfonyl)-2-propenenitrile | 1.0 g | ClC(C(OC1=CC(=C(C=C1[N+](=O)[O-])S(=O)(=O)C=CC#N)C)(F)F)Cl | C12H8Cl2F2N2O5S
